US09233956B2
Step B: 2-Propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-4-fluorophenyl}carbamate
Using multiple interations of a procedure analogous to the procedure described in Intermediate 11 using methyl 2-fluoro-5-{[(2-propen-1-yloxy)carbonyl]amino}benzoate (104 g, 411 mmol) and 2-chloro-4-methylpyrimidine (59 g, 493 mmol), the title compound of Step B was obtained (100 g, 69.9% yield). 1H NMR (400 MHz, CDCl3) δ ppm 13.67-13.75 (br, 1H), 8.50-8.53 (m, 0.3H), 8.31-8.38 (m, 1H), 7.50-7.82 (m, 2.6H), 6.56-7.20 (m, 3.5H), 6.20-6.25 (m, 1H), 5.82-6.01 (1.3H), 5.20-5.40 (m, 2.6H), 4.50-4.61 (m, 2.6H), 4.31-4.41 (m, 0.9H).

reactant | methyl 2-fluoro-5-{[(2-propen-1-yloxy)carbonyl]amino}benzoate | 411 mmol, 104 g | FC1=C(C(=O)OC)C=C(C=C1)NC(=O)OCC=C | C12H12FNO4
reactant | 2-chloro-4-methylpyrimidine | 493 mmol, 59 g | ClC1=NC=CC(=N1)C | C5H5ClN2
product | 2-Propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-4-fluorophenyl}carbamate | 69.9% yield | ClC1=NC=CC(=N1)CC(=O)C=1C=C(C=CC1F)NC(OCC=C)=O | C16H13ClFN3O3
